US04845118
2-(4-Methoxy-2-picolylmercapto)-1H-thieno[3,4-d]imidazole dihydrochloride
1.6 g of 2-mercaptothieno[3,4-d]imidazole and 2 g of 4-methoxypicolyl chloride hydrochloride in 50 ml of ethanol were heated at 60° C. for about one hour and stirred at room temperature for a further 40 hours. After the crystalline substance had been filtered off, it was suspended in acetone, the mixture was stirred at room temperature for one hour, and the crystals were filtered off with suction and dried in air. Colorless crystals, melting point 330° C.

reactant | 2-mercaptothieno[3,4-d]imidazole | 1.6 g | SC=1NC=2C(N1)=CSC2 | C5H4N2S2
reactant | 4-methoxypicolyl chloride hydrochloride | 2 g | Cl.COC1=CC(=NC=C1)CCl
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-(4-Methoxy-2-picolylmercapto)-1H-thieno[3,4-d]imidazole dihydrochloride | Cl.Cl.COC1=CC(=NC=C1)CSC1=NC=2C(N1)=CSC2 | InChI=1S/C12H11N3OS2.2ClH/c1-16-9-2-3-13-8(4-9)5-18-12-14-10-6-17-7-11(10)15-12;;/h2-4,6-7H,5H2,1H3,(H,14,15);2*1H
